Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___
 
Chief Complaint:
Admission for treatment of autoimmune idiopathic axonal
polyneuropathy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with history of progressive sensory
neuropathy suspected to be autoimmune in nature treated with
periodic plasmapheresis who is admitted for course of
plasmapheresis.
She initially presented to ___ in ___ for evaluation of many
years of symptoms, including lower extremity weakness which
progressed proximally, decreased sensation, and paresthesias. 
She
had extensive workup including sural nerve biopsy which showed
severe loss of all fiber types and NCS showed severe sensory
axonal polyneuropathy without myopathy. Labs sent including
anti-Ro, anti-La, ___, HIV, Lyme, anti-IF were all
negative and a clear etiology of her symptoms were not
identified. Weakness has been felt to be reflective of sensory
deafferentation. There have been numerous prior therapeutic
attempts including IVIG, which she did not respond to.  She has
been more recently getting periodic plasmapheresis and this has
helped her significantly to the point that she was improving 
some
of her mobility as of ___. 

In ___, she began to notice increased hand cramping and
numbness, while lower extremity symptoms remained relatively
stable. Plasmapheresis was delayed until ___ when the patient
felt her symptoms were clearly becoming worse. Unfortunately, 
she
did not respond as well to that course of treatment, partly due
to subsequent medical issues over the ___ including small
bowel obstruction requiring repeat hospitalization. The patient
noted significant decline in her mood and functional capacity
over the fall and has been struggling to get back to her ___ baseline. She reports some increase in bilateral hand
numbness and in dropping objects over the past 5 months. Plan 
was
for another trial of plasmapheresis to assist in her symptom
control. 

On neuro ROS, the pt endorses headache, near-daily, bifrontal or
holocephalic, aching. Other than daily scheduled Tylenol, takes
no medications for this. Denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, nor new numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies new difficulty with gait.

On general review of systems, the pt endorses approx. 3 months 
of
decreased appetite, and possibly some concomitant weight loss.
Denies recent fever or chills.  No night sweats or recent weight
gain. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias or myalgias.
Denies rash.

 
Past Medical History:
Severe idiopathic axonal sensorimotor polyneuropathy with
symptoms beginning in the late ___ or early ___. Symptoms began
with weakness and sensory loss in the legs proximally. Symptoms
have been responsive to plasmapheresis approximately yearly. As
noted above, she is wheelchair bound.
Vitamin B12 deficiency
History of repeated partial small-bowel obstruction; requires 
low
residue diet
Diabetes, not on any medications at present
Hypertension
GERD
Depression
Diverticulosis
Coronary vasospasm
Status post C-section x 2
Status post hysterectomy for leiomyomata
Left breast lumpectomy
Status post bilateral knee replacements
History of abdominal hematoma due to subcutaneous heparin

 
Social History:
___
Family History:
No family history of neurologic disease
other than a brother who is ___ with recent symptoms of dementia.
Mother and brother had diabetes.  Mother had liver, cervical and
colon cancer.  Father had lung cancer.  Mother had coronary
artery disease as well.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
General: Awake, cooperative, obese woman lying in bed in NAD.
Freuqently makes small, nonstereotyped movements of b/l hands 
and
feet at fingers, wrist, toes and ankles. 
HEENT: NC/AT, no scleral icterus noted, MMM. R IJ CVL in place,
dressing c/d/I. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, 1+ pitting edema BLE. 

Neurologic:

-Mental Status: Alert, oriented x 3. Provides linear and logical
history. Attentive, able to subtract serial 3's from 20. 
Language
is fluent with intact comprehension to cross-body commands. 
There
were no paraphasic errors. 

-Cranial Nerves: PERRL 3->2.  EOMI without nystagmus. Facial
sensation intact to light touch. Face symmetric at rest and with
activation. Hearing intact to conversation. Palate elevates
symmetrically. ___ strength in trapezii bilaterally. Tongue
protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Pseudoathetosis bilaterally with outstretched arms. 

No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   5  5     5   5    5  5     5          
R  5    ___   5  5     5   5    5  5     5          

-Sensory: Pinprick impaired to proximal forearm LUE and
mid-forearm RUE. Pinprick impaired to approx. level of ankle 
BLE.
Proprioception intact to large movements at the DIP on LUE, and
large movements at the wrist RUE, as well as small movements of
the ankle on the L and very large movements of the ankle on the
R.  

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  0  0    0    0   0                     
 R  0  0    0    0   0                     
Plantar response was flexor on the R, equivocal on the L. 

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

==========================================
DISCHARGE PHYSICAL EXAM: 

Vitals: Tm/c: 98.6/97.4 BP: 106-139/50-73 HR: 64-69 RR: ___ 
SaO2: 95-100% RA 
General: Awake, cooperative, obese woman sitting up in bed 
eating breakfast in NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM. C/D/I dressing over 
prior R IJ pheresis line site.  
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: skin warm, well-perfused. 
Abdomen: soft, no ttp.  
Extremities: Symmetric, 1+ pitting edema BLE. 

Neurologic:
-Mental Status: Alert, oriented to medical situation. Attentive 
to exam. Speech fluent without paraphasic errors. 
-Cranial Nerves: EOMI without nystagmus. Facial activation 
symmetric. No dysarthria. 
-Motor: No pronator drift. Continuous pseudochoreiform movements 
of bilateral fingers, wrists, ankles and toes, which increase 
with eyes closed. No adventitious movements, such as tremor, 
noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___  4+ 4+    5    ___     5          
R  5    ___  4+ 4+    5    ___     5          
-Sensory: Pinprick impaired to mid-forearm BUE. Pinprick 
impaired to approx. level of ankle BLE.
Proprioception intact to large movements at the wrist BUE as 
well as near-maximal movements at the ankle bilaterally. 
-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

 
Pertinent Results:
___ 05:56AM BLOOD WBC-4.5 RBC-4.28 Hgb-13.0 Hct-40.4 MCV-94 
MCH-30.4 MCHC-32.2 RDW-14.6 RDWSD-50.6* Plt ___
___ 04:32AM BLOOD ___ PTT-23.2* ___
___ 05:56AM BLOOD Glucose-90 UreaN-12 Creat-0.9 Na-144 
K-4.5 Cl-105 HCO3-29 AnGap-15
___ 05:56AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.0
___ 05:56AM BLOOD %HbA1c-5.4 eAG-108

IMAGING: 
___ Pheresis Catheter Placement: Catheter tip in the right 
atrium.

___ AXR: Dilated loops of small bowel with air-fluid levels 
concerning for a small bowel obstruction. 

___ CXR: NG tube tip isin the stomach.  Central catheter tip is 
in the lower SVC.   There is mild vascular congestion.  There is 
no pneumothorax.  If any there are small bilateral effusions. 

___ CT a/p: 1.   Findings compatible with partial small bowel 
obstruction.  No intraperitoneal free air. 
2.  Pancolonic diverticulosis, without evidence of 
diverticulitis. 
3.  Stable right adrenal lesion measuring up to 2.7 cm. 

 
Brief Hospital Course:
Ms. ___ was admitted for scheduled PLEX. Course was complicated 
by partial SBO, managed conservatively with surgical 
consultation with NG tube to suction. The SBO resolved. She 
finished the 5 sessions of PLEX without event. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 4 mg PO Q6H:PRN nausea 
2. Lactulose 30 mL PO TID 
3. Acetaminophen 650 mg PO DAILY 
4. Bacitracin Ointment 1 Appl TP BID 
5. Gabapentin 100 mg PO BID 
6. buPROPion HCl 200 mg oral DAILY 
7. BuPROPion XL (Once Daily) 150 mg PO QPM 
8. zinc ox-aloe ___ E 11.3 % topical ASDIR 
9. zinc oxide 20 % topical BID 
10. LORazepam 0.5 mg PO DAILY:PRN unknown 
11. bisacodyl 5 mg oral DAILY:PRN 
12. Bisacodyl ___ID:PRN constipation 
13. Docusate Sodium 100 mg PO BID 
14. Polyethylene Glycol 17 g PO BID 
15. Fleet Enema (Saline) ___AILY:PRN constipation 
16. amLODIPine 1.25 mg PO DAILY 
17. dextran 70-hypromellose 0.1-0.3 % ophthalmic Q6H:PRN 
18. Multivitamins W/minerals 1 TAB PO DAILY 
19. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN x 3 as needed for chest 
pain 
20. melatonin 4 mg oral QHS:PRN 
21. diclofenac sodium 1 % topical Q8H:PRN 
22. nystatin 100,000 unit/gram topical BID 
23. Aspirin 81 mg PO DAILY 
24. Sertraline 75 mg PO DAILY 
25. TraZODone 25 mg PO QHS:PRN insomnia 
26. Cyanocobalamin 1000 mcg IM/SC QMONTH 
27. Vitamin D 1000 UNIT PO BID 

 
Discharge Medications:
1.  Polyethylene Glycol 17 g PO TID  
2.  Acetaminophen 650 mg PO DAILY  
3.  amLODIPine 1.25 mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Bacitracin Ointment 1 Appl TP BID  
6.  bisacodyl 5 mg oral DAILY:PRN  
7.  Bisacodyl ___ID:PRN constipation  
8.  buPROPion HCl 200 mg oral DAILY  
9.  BuPROPion XL (Once Daily) 150 mg PO QPM  
10.  Cyanocobalamin 1000 mcg IM/SC QMONTH  
11.  dextran 70-hypromellose 0.1-0.3 % ophthalmic Q6H:PRN  
12.  diclofenac sodium 1 top topical Q8H:PRN pain  
13.  Docusate Sodium 100 mg PO BID  
14.  Fleet Enema (Saline) ___AILY:PRN constipation  
15.  Gabapentin 100 mg PO BID  
16.  Lactulose 30 mL PO TID  
17.  LORazepam 0.5 mg PO DAILY:PRN unknown  
18.  melatonin 4 mg oral QHS:PRN  
19.  Multivitamins W/minerals 1 TAB PO DAILY  
20.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN x 3 as needed for 
chest pain  
21.  nystatin 100,000 unit/gram topical BID  
22.  Ondansetron ODT 4 mg PO Q6H:PRN nausea  
23.  Sertraline 75 mg PO DAILY  
24.  TraZODone 25 mg PO QHS:PRN insomnia  
25.  Vitamin D 1000 UNIT PO BID  
26.  zinc ox-aloe ___ E 11.3 % topical ASDIR  
27.  zinc oxide 20 % topical BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Autoimmune sensory polyneuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Ms. ___,
You were admitted for your scheduled session of plasma exchange. 
While you were here, you also developed another partial small 
bowel obtstruction, and needed a tube from your nose into your 
stomach for a few days. That got better and you were feeling and 
eating well before you left the hospital. You finished your five 
sessions of plasma exchange without any provblems. 

Follow up with Dr. ___ as listed below. You are also on the 
wait list for a closer appointment with her. 

Sincerely, 
Your ___ Neurology Team
 
Followup Instructions:
___